**********

* From Texas Intruments

* TLC555 TIMER MACROMODEL *

* 4/1/92 *

*

.SUBCKT TLC555 1 2 3 4 5 6 7 8

* Node Connection

* COMMON

* | TRIGGER

* | | OUTPUT

* | | | RESET

* | | | | CONTROL

* | | | | | THRESHOLD

* | | | | | | DISCHARGE

* | | | | | | | VDD

* | | | | | | | |

* 1 2 3 4 5 6 7 8

EREF 15 1 8 1 .5

GSOURCE 8 3 8 26 12.5E-3

GSINK 3 1 26 1 67E-3

VD1 8 27 DC .8

VD2 28 1 DC .85

VREF 30 1 DC 1.2

C1 29 1 700E-15

RREF2 30 1 100E3

RREF 15 1 100E3

ROUT 3 1 100K

R1 6 1 500E9

R2 2 1 500E9

R3 8 5 75E3

R4 5 9 75E3

R5 9 1 75E3

R6 10 11 1E3

R7 13 14 1E3

R8 8 12 150E3

R9 4 8 500E9

R10 20 19 1E3

R11 16 17 1E3

R12 8 18 150E3

R13 8 21 150E3

R14 22 23 1E3

R15 8 26 150E3

R16 24 25 1E3

R19 7 1 500E9

R20 29 26 1E6

D1 1 11 DMOD

D2 12 11 DMOD

D3 12 14 DMOD

D4 1 14 DMOD

D5 18 17 DMOD

D6 1 17 DMOD

D7 18 19 DMOD

D8 1 19 DMOD

D9 21 14 DMOD

D10 21 25 DMOD

D11 1 23 DMOD

D12 18 23 DMOD

D13 26 25 DMOD

D14 1 25 DMOD1

D15 3 27 DMOD

D16 28 3 DMOD

E1 10 1 6 5 1000

E2 13 1 2 9 1000

E3 16 1 15 12 1000

E4 22 1 15 21 1000

E5 24 1 15 18 1000

E7 20 1 4 30 1000

M1 7 29 1 1 MOSMOD

.MODEL MOSMOD NMOS (LEVEL=1 KP=1 VTO=1 RD=5)

.MODEL DMOD D (RS=1E-6)

.MODEL DMOD1 D (RS=1E-6 IS=1E-9)

.ENDS

**********
